US09193728B2
Preparation of 5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
1-Nitroso-1,2,3,4-tetrahydroquinoline (5.8 g, 0.0357 mol) was dissolved in acetic acid (50 mL). NH-piperidone (7.97 g, 0.0464 mol) was added and cooled to 0° C. Zinc dust was added (11.67 g, 0.1785 mol) in small portions. After addition, the reaction mixture was heated at 85° C. for 1 h. The reaction was monitored by TLC & LCMS. After completion of reaction, the mixture was filtered and the filtrate neutralized by aq. NaHCO3. The mixture was extracted with EtOAc (3×200 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure to obtain 6.2 g product that was purified by column chromatography using 100-200 mesh silica and 5-7% MeOH in DCM+2 drops NH4OH to give pure product.

reactant | 1-Nitroso-1,2,3,4-tetrahydroquinoline | 0.0357 mol, 5.8 g | N(=O)N1CCCC2=CC=CC=C12 | C9H10N2O
reactant | piperidone | 0.0464 mol, 7.97 g | N1C(CCCC1)=O | C5H9NO
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | [Zn] | Zn
product | 5,6,8,9,10,11-hexahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 6.2 g | C1=CC=C2CCCN3C2=C1C1=C3CCNC1 | C14H16N2
